US04775692
n-Butyl lithium (1.49N, 49.2 ml, 73.3 mmol) was added dropwise to a solution of diisopropylamine (10.3 ml, 73.3 mmol) in 100 ml of anhydrous THF at 0° C. under argon atmosphere. After the mixture was stirred at 0° C. for 20 minutes, 3-phenylpropionic acid (5.00 g, 33.3 mmol) was added dropwise. After the mixture was stirred at 0° C. for 10 minutes, HMPA (12.7 ml, 73.3 mmol) was added dropwise and the mixture was further stirred for 20 minutes. Methyl iodide (4.4 ml, 69.9 mmol) was added dropwise at 0° C. and the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with an aqueous saturated solution of ammonium chloride and acidified to pH2 with concentrated hydrochloric acid. The mixture was extracted with ethyl acetate (50 ml×4). The combined ethyl acetate layers were washed with water (50 ml) and brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. To a solution of this residue in 100 ml of ether was added dropwise 50 ml of a solution of diazomethane in ether at 0° C. After concentration, the residue was distilled to give a colorless oil of methyl 2-methyl-3-phenylpropionate (5.6383 g, yield 95.0%, b.p. 122.5°-124.5° C./18 mmHg), which was assigned the structure by the following data:

reactant | n-Butyl lithium | 73.3 mmol, 1.49N, 49.2 ml | C(CCC)[Li]
reactant | diisopropylamine | 73.3 mmol, 10.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-phenylpropionic acid | 33.3 mmol, 5.00 g | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | HMPA | 73.3 mmol, 12.7 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | Methyl iodide | 69.9 mmol, 4.4 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | methyl 2-methyl-3-phenylpropionate | 5.6383 g, yield 95.0% | CC(C(=O)OC)CC1=CC=CC=C1 | C11H14O2
